US04482560
1.65 Grams of 6-hydroxycarbostyril and 0.75 g of granular potassium hydroxide were mixed with 50 ml of methanol and concentrated under a reduced pressure to dryness. To the residue obtained was added 50 ml of dimethylformamide and mixed well, then 2.6 g of 1-(3-chloropropyl)-4-acetyl-4-phenylpiperidine was added and heated at 50° C. for 6 hours under stirring condition. The reaction mixture was concentrated under a reduced pressure to dryness and 20 ml of 5%-sodium hydrogencarbonate aqueous solution was added thereto and stirred. The insoluble matters were collected by filtration and washed with water. After dried the insoluble matters were recrystallized from ethanol to obtain 1.1 g of 6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]carbostyril as in the form of colorless prism-like crystals. Melting point: 192.5°-194° C.

reactant | 6-hydroxycarbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | potassium hydroxide | 0.75 g | [OH-].[K+]
reactant | methanol | 50 ml | CO | CH4O
reactant | 1-(3-chloropropyl)-4-acetyl-4-phenylpiperidine | 2.6 g | ClCCCN1CCC(CC1)(C1=CC=CC=C1)C(C)=O | C16H22ClNO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]carbostyril | 1.1 g | C(C)(=O)C1(CCN(CC1)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1=CC=CC=C1 | C25H28N2O3
